US08242125B2
90-A. (±)-5-(6-(benzyloxymethyl)pyrimidin-4-yloxy)-N-(4-methoxy-3-(trifluoromethyl)phenyl)-1H-indole-1-carboxamide
To a solution of 5-(6-(benzyloxymethyl)pyrimidin-4-yloxy)-1H-indole (0.8 g, 2.41 mmol) in 35 mL of DCE, CDI (1.17 g, 7.24 mmol) is added followed by TEA (1 mL, 7.24 mmol). Mixture is stirred at rt overnight and then 4-methoxy-3-(trifluoromethyl)aniline (1.38 g, 7.24 mmol) is added followed by stirring for 4 days. The reaction is diluted with DCM, washed with saturated aqueous NaHCO3 (×2), brine, and the organic layer is dried over Na2SO4. After concentration, the residue is purified by FCC (5-60% EtOAc/heptane) to give the title compound. MS (ESI) m/z 549.1 (M+1).

reactant | 5-(6-(benzyloxymethyl)pyrimidin-4-yloxy)-1H-indole | 2.41 mmol, 0.8 g | C(C1=CC=CC=C1)OCC1=CC(=NC=N1)OC=1C=C2C=CNC2=CC1 | C20H17N3O2
reactant | CDI | 7.24 mmol, 1.17 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-methoxy-3-(trifluoromethyl)aniline | 7.24 mmol, 1.38 g | COC1=C(C=C(N)C=C1)C(F)(F)F | C8H8F3NO
solvent | DCE | 35 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (±)-5-(6-(benzyloxymethyl)pyrimidin-4-yloxy)-N-(4-methoxy-3-(trifluoromethyl)phenyl)-1H-indole-1-carboxamide | C(C1=CC=CC=C1)OCC1=CC(=NC=N1)OC=1C=C2C=CN(C2=CC1)C(=O)NC1=CC(=C(C=C1)OC)C(F)(F)F | C29H23F3N4O4
